US07008950B1
3-(4-Isopropylphenyl)-1′,4,6,7-tetramethyl-5-(4-pyridylmethyloxy)spiro[benzofuran-2(3H),4′-piperidine]
Sodium hydride (60% liquid paraffin dispersion, 187.3 mg, 4.98 mmol) was added to a solution of 3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol (817.7 mg, 2.15 mmol) in N,N-dimethylformamide (30 mL) at 0° C., and the mixture was stirred for 30 minutes at the same temperature. To the reaction mixture was added 4-chloromethylpyridine hydrochloride (364.5 mg, 2.22 mmol) and the mixture was stirred for further 30 minutes at room temperature. The reaction mixture was poured into water, and extracted twice with ethyl acetate. The organic layers were combined, washed with an aqueous saturated sodium hydrogencarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (Chromatorex NH DM1020, Fuji Silysia Chemical LTD) (hexane/ethyl acetate=4/1) to obtain the title compound (575 mg, yield 57%).

reactant | Sodium hydride | 4.98 mmol, 187.3 mg | [H-].[Na+]
reactant | 3-(4-isopropylphenyl)-1′,4,6,7-tetramethylspiro[benzofuran-2(3H),4′-piperidine]-5-ol | 2.15 mmol, 817.7 mg | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCN(CC3)C)C(=C(C(=C2C)O)C)C | C25H33NO2
reactant | 4-chloromethylpyridine hydrochloride | 2.22 mmol, 364.5 mg | Cl.ClCC1=CC=NC=C1
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-(4-Isopropylphenyl)-1′,4,6,7-tetramethyl-5-(4-pyridylmethyloxy)spiro[benzofuran-2(3H),4′-piperidine] | 575 mg, yield 57% | C(C)(C)C1=CC=C(C=C1)C1C2=C(OC13CCN(CC3)C)C(=C(C(=C2C)OCC2=CC=NC=C2)C)C | C31H38N2O2
